US07531542B2
6-({4-[2-(4-tert-butylphenyl)-1,3-benzoxazol-7-yl]piperazin-1-yl}methyl)quinoxaline:
To a suspension of 2-(4-tert-butylphenyl)-7-piperazin-1-yl-1,3-benzooxazole 23.5 mg, 0.070 mmol) and 6-bromomethylquinoxaline (17.2 mg, 0.077 mmol) in CH3CN (anh., 10 mL) was added ethyldiisopropylamine (0.015 mL, 0.084 mmol). The mixture was heated in a 95° C. bath overnight. The reaction was cooled to room temperature and concentrated in vacuo. The residue was adsorbed onto silica gel. Silica gel chromatography using a gradient of 25% EtOAc/hexane to 50% EtOAc/hexane then 100% EtOAc afforded the title compound (23.2 mg) as an ivory powder. MS (ESI) m/z 478 [M+H]+; HPLC Method C, r.t.=10.9 min (98.9% @210-370 nm; 97.4% @ 236 nm).

reactant | 2-(4-tert-butylphenyl)-7-piperazin-1-yl-1,3-benzooxazole | 0.070 mmol, 23.5 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2N2CCNCC2 | C21H25N3O
reactant | 6-bromomethylquinoxaline | 0.077 mmol, 17.2 mg | BrCC=1C=C2N=CC=NC2=CC1 | C9H7BrN2
reactant | ethyldiisopropylamine | 0.084 mmol, 0.015 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 6-({4-[2-(4-tert-butylphenyl)-1,3-benzoxazol-7-yl]piperazin-1-yl}methyl)quinoxaline | 23.2 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2N2CCN(CC2)CC=2C=C1N=CC=NC1=CC2 | C30H31N5O
